US05175166
Prepared by a procedure similar to Example 9, where sodium hydride (60% dispersion in mineral oil 108 mg, 2.7 mmol) and butyramidoxime (276 mg, 2.7 mmol) were suspended in dry THF in an oven dried round bottom flask with stirring under nitrogen at 0° C. After 15 minutes stirring the ice bath was removed and the grey suspension refluxed 45 minutes to give a white suspension. 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine (1.04 g, 2.7 mmol) was added, dissolved in dry THF and reflux continued 18 hours. The solvents were evaporated in vacuo and the residue was chromatographed (silica, chloroform/methanol, 9:1) to yield 1-triphenylmethyl-1,4,5,6-tetrahydro-5-(3-n-propyl-1,2,4-oxadiazol-5-yl)pyrimidine 785 mg (67%). This product was dissolved in triflouroacetic acid (2 ml), with stirring at room temperature for 24 hours. The yellow solution was then evaporated in vacuo, and the residue recrystallized from methanol/ether to yield 240 mg (43%) white crystals, mp 126-128° C. identified by 300 MHz nmr.

reactant | sodium hydride | 2.7 mmol, 108 mg | [H-].[Na+]
reactant | butyramidoxime | 2.7 mmol, 276 mg | C(CCC)(N)=NO | C4H10N2O
reactant | 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine | 2.7 mmol, 1.04 g | C1(=CC=CC=C1)C(N1C=NCC(C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O2
solvent | THF | C1CCOC1 | C4H8O
product | 1-triphenylmethyl-1,4,5,6-tetrahydro-5-(3-n-propyl-1,2,4-oxadiazol-5-yl)pyrimidine | 785 mg, 67% | C1(=CC=CC=C1)C(N1C=NCC(C1)C1=NC(=NO1)CCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O
